US08304546B2
Hydrazine hydrate (0.62 ml, 12.8 mmol) was added to an ethanol solution (60 ml) of 2-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}isoindole-1,3-dione (2.0 g, 3.88 mmol) and heated under reflux for 4 hours. The resulting mixture was concentrated under reduced pressure, a 5N aqueous sodium hydroxide solution was added to the thus-obtained residue, and then the resulting mixture was subjected to extraction using dichloromethane. The thus-obtained organic layer was sequentially washed with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure, giving a yellow oily 1-(3-aminopropyl)-5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (1.4 g, yield: 94%).

reactant | Hydrazine hydrate | 12.8 mmol, 0.62 ml | O.NN
reactant | 2-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}isoindole-1,3-dione | 3.88 mmol, 2.0 g | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)OC)=O | C30H27FN2O5
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(3-aminopropyl)-5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 1.4 g, yield: 94% | NCCCN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OC | C22H25FN2O3
